US05523439
15.1 g of acetyl chloride was added to a solution, in 200 ml of dichloromethane, of 36.0 g of 4-(2-fluorophenyl)ethyl)-1,1-diphenyl-1-silacyclohexane obtained in Preparatory Example 4 and 25.6 g of aluminium chloride at room temperature, followed by agitation for 1 hour to obtain a mixture of 4-(2-(p-fluorophenyl)ethyl)-1,1-dichloro-1-silacyclohexane and acetophenone. A mixture of 40 g of ethanol and 60 g of triethylamine was added to the solution at room temperature. The resultant reaction mixture was concentrated, after which 200 ml of hexane was added to permit secondarily produced triethylamine hydrochloride to be precipitated. This precipitate was removed by filtration and the resultant filtrate was concentrated, followed by removal of the acetophenone by distillation under reduced pressure to obtain 28.5 g of 4-(2-(p-fluorophenyl)ethyl)-1,1-diethoxy-1-silacyclohexane. This product was dissolved in 100 ml of THF and added to a solution of 10.0 g of lithium aluminium hydride in 100 ml of THF. The reaction mixture was agitated under reflux for 1 hour and then poured into 200 ml of 5% hydrochloric acid, followed by extraction with ethyl acetate. The resultant extract was washed with brine, dried and concentrated, followed by purification through silica gel chromatography to obtain 20.1 g of 4-(2-(p-fluorophenyl)ethyl)-1-silacyclohexane. Thereafter, 20.0 g of 4-(2-(p-fluorophenyl)ethyl)-1-silacyclohexane, 24.2 g of copper (II) chloride, and 1.6 g of copper (I) iodide were added to 200 ml of diethyl ether, followed by agitation at room temperature for 8 hours to obtain 4-(2-(p-fluorophenyl)ethyl)-1-chloro-1-silacyclohexane. The copper salts were removed from the reaction mixture by filtration, after which the resultant filtrate was dropped in 100 ml of a THF solution of 1 mole/liter of 4-n-propylcyclohexylmagnesium bromide at room temperature. The reaction mixture was poured into 200 ml of 5% hydrochloric acid and extracted with ethyl acetate. The resultant extract was washed with brine, dried and concentrated by a usual manner, followed by purification through silica gel chromatography to obtain 21.2 g (68%) of the intended product. The product exhibited nematic liquid crystal properties at a temperature between 40° and 56.7° C. The results of IR analysis are shown below.

reactant | 4-(2-(p-fluorophenyl)ethyl)-1,1-dichloro-1-silacyclohexane | FC1=CC=C(C=C1)CCC1CC[Si](CC1)(Cl)Cl | C13H17Cl2FSi
reactant | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | ethanol | 40 g | C(C)O | C2H6O
solvent | triethylamine | 60 g | C(C)N(CC)CC | C6H15N
product | 4-(2-(p-fluorophenyl)ethyl)-1,1-diethoxy-1-silacyclohexane | 28.5 g | FC1=CC=C(C=C1)CCC1CC[Si](CC1)(OCC)OCC | C17H27FO2Si
